*****************************************************************
* NXP PSMN3R7_30YLC
*
* Polarity N-Channel
* Ratings 30V/3.95E-03OHMS/20A
*
* Date Created Sun Apr  3 10:58:16 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R7_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000971

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0023196478762962 TC=0.00826642033331157,-1.04016380824891e-05
RBD 9 4 0.000858890555001966 TC=0.00826642033331157,-1.04016380824891e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.50936089733046e-09
RG 1 2 1.57663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1686
+ -10	1682
+ -5	1674
+ -4	1667
+ -3	1641
+ -2	1283
+ -1	1056
+ -0.5	876
+ -0.2	760
+ -0.1	721
+ 0	675
+ 0.1	613
+ 0.2	563
+ 0.5	445
+ 1	340
+ 2	259
+ 3	222
+ 4	200
+ 5	185
+ 6	174
+ 8	157
+ 10	146
+ 15	131
+ 20	123
+ 25	117

.MODEL MINT NMOS(Vto=1.94538094086478 Kp=2.2164e+02 Nfs=480000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1200)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=1.28355983252429e-12
+ N=1 M=0.720000000000001 VJ=0.92 Fc=0.5 Cjo=1.732e-09 Tt=2.7e-08)

.ENDS